US04364956
Ethyl 4-oxo-5-phenyl-4H-pyran-2-carboxylate
A solution of 4-dimethylamino-3-phenyl-3-buten-2-one (30.3 g) and diethyl oxalate (43.5 ml) in ethanol (75 ml) was added to a stirred solution of sodium ethoxide prepared by dissolving sodium (5.5 g) in ethanol (150 ml). The stirred mixture was heated under reflux for 1 hour, cooled to 20°-25° C. and acidified by addition of 5 N hydrochloric acid (150 ml). The mixture was stirred for a further hour, then cooled to 5° C., and diluted with water (300 ml). The solid title product was recrystallised from ethanol-water (mp 110°-112° C.).

reactant | 4-dimethylamino-3-phenyl-3-buten-2-one | 30.3 g | CN(C=C(C(C)=O)C1=CC=CC=C1)C | C12H15NO
reactant | diethyl oxalate | 43.5 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 5.5 g | [Na] | Na
reactant | hydrochloric acid | 5 N, 150 ml | Cl | ClH
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | Ethyl 4-oxo-5-phenyl-4H-pyran-2-carboxylate | O=C1C=C(OC=C1C1=CC=CC=C1)C(=O)OCC | C14H12O4
